Name:  ___.             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Optiray 350 / Clinoril / Keppra / Codeine
 
Attending: ___.
 
Chief Complaint:
weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr ___ is an ___ yom with history of CAD s/p RCA and left 
circumflex stent in ___ and ___, TIAs, afib on coumadin, MVR 
s/p bioprosthetic MV in ___, pacemaker, prostate cancer s/p 
radiation c/b obstructive uropathy and suprapubic ___ a 
urostomy p/w weakness.  
.  
Per family report, patient has been uncomfortable with his 
catheter recently. Typically has his catheter changed every six 
weeks but ___ had to go longer this time. Having difficulty 
holding his urine, was having several accidents during the last 
week. Last infection just prior to catheter change. Today ___ was 
working out in the gym in his independent living facility, 
returned to his aprtment to his wife reporting feeling weak, 
rigoring severely, and was unable to stand. ___ was also unable 
to communicate and was grunting responses only.  
No documented fevers. Symptoms started acutely today. ___ was at 
his baseline two days ago.  
.  
In the ED, patient triggered for appearing critically ill. 
Initial vital signs were T99.4 HR84 BP148/68 RR20 O2 sat 99%RA. 
___ was pale, not verbally responsive, but able to shake his head 
yes or no to commands. Repeat rectal temp was 102.6. Examination 
was notable for lower abdominal tenderness. ___ had no focal 
neurologic symptoms. Guaic was negative. ___ underwent evaluation 
with head CT and CT abdomen. CBC was notable for leukocytosis. 
UA strongly consistent with UTI. ___ received 850cc NS, and was 
started on Vancomycin and Zosyn. Per report his vital signs 
remained stable throughout his time in the ED. Vital signs were 
HR 60, BP 139/37, RR 20, 100% on 3L NC.  
.  
On arrival to the MICU, patient verbally responsive but only 
able to respond to simple questions.  
.  
Review of systems:  
increase forgetfullness (comes and goes), chills. no recent 
chest pains or shortness of ___. mild abdominal discomfort, 
increased urinary frequency.  
(+) Per HPI  
(-) unable to provide  
 
Past Medical History:
1. prostate ca, initially treated c radiation ___ now recurrent 
and treated with lupron for many years. recent psa of 2 (up a 
little)  
2. chronic urinary retention c recent permanent foley s/p 
radiation from prostate ca  
3. recent UTI  
4. CAD status post RCA and left circumflex stenting in ___ and  

___ respectively.  
5. Mitral valve regurgitation status post bioprosthetic mitral  
valve in ___.  
6. Atrial fibrillation status post Maze also in ___, currently  

on Coumadin.  
7. Status post pacemaker following MVR. This is a ___ AV  
sequentially pacing.  
8. Hypertension.  
9. Numerous TIAs on Coumadin.  
10. gerd  
11. constipation  
12. h/o GIB, requiring discontinuation of asa. last transfusion 
___. COPD  

 
Social History:
___
Family History:
per OMR: Father with RCC and DM II.
 
Physical Exam:
Physical Exam on Admission:

General: Lethargic, responds to voice, oriented to person and 
place. No acute distress.  
HEENT: Sclera anicteric, MM dry, oropharynx clear, EOMI, PERRL  
Neck: supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, harsh holosystolic 
murmur. No rubs, gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
suprapublic foley catheter in place. suprapubic tenderness, 
without rebound or guarding.  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, strength ___ in all extremities. grossly 
normal sensation, gait deferred. pt responding to simple 
questions and commands, has difficulty with concentration.  

Physical Exam on Discharge:

General: NAD, A+Ox3
HEENT: mucous membranes moist
Neuro: responds appropriately to qurestions and commands
 
Pertinent Results:
Lab Results on Admission:

___ 04:45PM BLOOD WBC-15.3*# RBC-4.37* Hgb-10.3* Hct-33.0* 
MCV-76* MCH-23.5* MCHC-31.1 RDW-15.4 Plt ___
___ 04:45PM BLOOD Neuts-92.6* Lymphs-2.6* Monos-4.4 Eos-0.1 
Baso-0.3
___ 04:45PM BLOOD ___ PTT-50.0* ___
___ 04:45PM BLOOD Glucose-130* UreaN-22* Creat-1.1 Na-138 
K-4.0 Cl-100 HCO3-25 AnGap-17
___ 04:45PM BLOOD ALT-16 AST-33 AlkPhos-57 TotBili-1.0
___ 04:45PM BLOOD proBNP-1131*
___ 04:45PM BLOOD cTropnT-<0.01
___ 04:45PM BLOOD Albumin-3.9 Calcium-9.5 Phos-2.7 Mg-2.7*
___ 04:53PM BLOOD ___ pO2-65* pCO2-40 pH-7.45 
calTCO2-29 Base XS-3
___ 04:53PM BLOOD Lactate-1.9

Studies:

Cardiovascular ReportECGStudy Date of ___  4:35:06 ___
Atrial pacing and ventricular pacing. Compared to the previous 
tracing
of ___ no significant change.

Radiology ReportCT HEAD W/O CONTRASTStudy Date of ___ 
4:47 ___
IMPRESSION: No acute intracranial pathology.

Radiology ReportCHEST (PORTABLE AP)Study Date of ___ 4:47 
___
IMPRESSION: Lower lung volumes on the current exam. Left lower 
lobe opacity
seen medially, potentially due to atelectasis; however, 
infiltrate is not
completely excluded. Clinical correlation is suggested.

Radiology ReportCT ABD & PELVIS W/O CONTRASTStudy Date of 
___ 5:15 ___
IMPRESSION:
1. Cholelithiasis without evidence of acute cholecystitis. No 
acute abdominal
pathology.
2. Moderate-to-severe atherosclerotic disease of the abdominal 
aorta and
visceral arteries.

Cardiovascular ReportECGStudy Date of ___  1:25:12 ___
Atrio-ventricular pacing. Compared to the previous tracing of 
___ the
ventricular rate is slower.

Radiology ReportCHEST (PORTABLE AP)Study Date of ___ 8:06 
___
FINDINGS: As compared to the previous radiograph, there is an 
increased area
of atelectasis at the left lung base, presence of a minimal left 
pleural
effusion cannot be excluded.
Borderline size of the cardiac silhouette. No pneumonia, no 
pulmonary edema.

___       ___ MRN:   ___       Portable TTE 
(Complete) Done ___ at 4:44:26 ___      FINAL
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). The right 
ventricular cavity is mildly dilated with normal free wall 
contractility. The aortic valve leaflets (3) are mildly 
thickened. There is a minimally increased gradient consistent 
with minimal aortic valve stenosis. Trace aortic regurgitation 
is seen. A bioprosthetic mitral valve prosthesis is present. The 
transmitral gradient is normal for this prosthesis. Mild (1+) 
mitral regurgitation is seen. The tricuspid valve leaflets are 
mildly thickened. Moderate [2+] tricuspid regurgitation is seen. 
[Due to acoustic shadowing, the severity of tricuspid 
regurgitation may be significantly UNDERestimated.] There is 
moderate pulmonary artery systolic hypertension. There is no 
pericardial effusion.
Compared with the prior study (images reviewed) of ___, 
the degree of pulmonary hypertension has increased. The right 
ventricle appears mildly dilated/hypokinetic. The other findings 
are similar.  

Microbiology:

___ 4:45 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH FECAL
      CONTAMINATION. 

___ blood culture: no growth

Lab Results on Discharge:

___ 10:45AM BLOOD WBC-5.6 RBC-3.95* Hgb-9.1* Hct-30.1* 
MCV-76* MCH-23.0* MCHC-30.3* RDW-15.4 Plt ___
___ 03:19AM BLOOD Neuts-94.7* Lymphs-2.4* Monos-2.6 Eos-0.2 
Baso-0.1
___ 10:45AM BLOOD ___ PTT-33.7 ___
___ 10:45AM BLOOD Glucose-126* UreaN-15 Creat-1.0 Na-138 
K-3.5 Cl-101 HCO3-29 AnGap-12
___ 03:19AM BLOOD ALT-13 AST-27 AlkPhos-46 TotBili-1.1
___ 10:45AM BLOOD Calcium-8.1* Phos-1.7* Mg-2.3

Urinue:

___ 04:45PM URINE Color-Yellow Appear-Hazy Sp ___
___ 04:45PM URINE Blood-TR Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-LG
___ 04:45PM URINE RBC-15* WBC-153* Bacteri-MOD Yeast-NONE 
Epi-0
 
Brief Hospital Course:
PRIMARY REASON FOR HOSPITALIZATION: Patient is an ___ yo male 
with PMH of CAD, afib, MVR, prostate cancer with suprapubic 
catheter, and COPD who presents from home with rigors and 
weakness. ___ was being treated for UTI and possible pneumonia as 
well and discharged with a home course of antibiotics to 
___ with PCP.
.
ACUTE CARE: 
1. Urinary tract infection: Patient developed altered mental 
status suddenly on the afternoon of admission after what is 
described to be rigors. ___ was symptomatic with suprapubic 
tenderness, weakness, and inability to communicate. His 
neurologic exam, as much as ___ was able to cooperate at the time 
is nonfocal. His catheter was changed, and with antibiotics 
ovenight his mental status improved and ___ was transferred from 
the ICU to medical floor. ___ again transiently spiked a fever on 
transfer to the floor but remained mentating well and then 
defervesced. ___ had a positive UA and a UC which grew mixed 
flora. ___ received antibiotic treatment with great improvement 
and was discharged home on a course of levofloxacin.
.
2. Hypoxia: Patient developed new oxygen requirement on 
transition to floor from the ICU. CXR showed vascular 
congestion. His home lasix which was temporarily held was 
restarted, patient had excellent urine output and his hypoxia 
improved. ___ was discharged on home lasix and satting well on 
room air.
. 
3. Acute Diastolic Heart Failure: On transfer to the floor from 
MICU, patient's chest exam revealed rapid onset rales and his 
oxygen saturation dropped from 98%RA to 94%RA. CXR revealed 
increased left pleural effusion and increased pulmonary vascular 
congestion. With resuming lasix therapy, patient had a 
successful diuresis and his oxygenation improved to no oxygen 
requirement. Echo revealed normal EF, showing this was likely an 
episode of acute diastolic heart failure.
.
4. Delirium: On presentation, patient was only responsive to 
questioning with grunts while his baseline mental status is 
A+Ox3 and capable of organizing club activities with groups at 
his living facility. This was likely secondary to infectious 
process on top of underlying mild chronic cerebral vascular 
disease. The altered mental status resolved with IV antibiotics 
and patient returned to his baseline mental status with 
treatment of UTI.  
. 
CHRONIC CARE: 
1. CAD w/ history of stent: Patient presented off of ASA given 
anemia secondary to GIB. ___ was continued on his home 
antihypertensives.
.
2. Mitral Valve Pathology: ___ echo showed moderate MR. ___ 
CHF is not in patient's PMH, ___ does report a history swollen 
ankles and does require home lasix suggesting predilection to 
CHF. Repeat echo showed normal EF and mild MR. ___ was discharged 
to PCP ___.
.  
3. H/o TIA's: Patient's coumadin was initially held for 
supratherapeutic INR but was restarted at discharge to be 
followed-up by his ___ clinic.
.  
4. Afib s/p MAZE: Patient was rate controlled with AV pacing at 
60, and is on warfarin anticoagulation.  
.  
5. Asthma: Continued home inhalers.  
.  
6. Prostate ca: Continued Leupron.  
.  
7. GERD: Continued PPI 
.  
8. Constipation: Patient received bisacodyl suppository  
.
TRANSITIONS IN CARE
1. Communication: Patient, daughter ___  
2. Code Status: confirmed FULL on this admission  
3. Medication changes:
START** Levofloxacin antibiotics 250 mg once a day for 7 more 
days (to end ___
START** Senna 1 tablet twice a day as needed for constipation
START** Colace 1 tablet twice a day as needed for constipation
4. ___:
Name: ___: ___
Address: ___
Phone: ___
Appointment: ___ AT 9:30AM

Department: SURGICAL SPECIALTIES
When: ___ at 10:00 AM
With: ___
Building: ___
Campus: ___ Best Parking: ___

Department: HEMATOLOGY/ONCOLOGY
When: ___ at 9:00 AM
With: ___
Building: ___
Campus: ___ Best Parking: ___

Department: HEMATOLOGY/ONCOLOGY
When: ___ at 10:00 AM
With: ___
Building: ___
Campus: ___ Best Parking: ___
5. OUTSTANDING CLINICAL ISSUES:
-titration of warfarin dosing
-managemnt of suprapubic catheter.
 
Medications on Admission:
warfarin
alendronate
amlodipine
furosemide
leuprolide
omeprazole
miralax
spiriva
symbicort 89/4.5 strength ___
albuterol sulfate prn
 
Discharge Medications:
1. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for Constipation.
Disp:*60 Tablet(s)* Refills:*0*
2. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q4H (every 4 hours) as 
needed for sob/wheeze.  
3. alendronate 70 mg Tablet Sig: One (1) Tablet PO once a week.  

4. amlodipine 2.5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Lupron Depot (3 Month)  Intramuscular
7. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
8. polyethylene glycol 3350 17 gram Powder in Packet Sig: One 
(1) Powder in Packet PO DAILY (Daily).  
9. tiotropium bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
10. warfarin 2.5 mg Tablet Sig: One (1) Tablet PO as directed.  
11. Vitamin C  Oral
12. Calcium 500 + D 500 mg(1,250mg) -200 unit Tablet Sig: One 
(1) Tablet PO once a day.  
13. multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
14. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).
Disp:*60 Capsule(s)* Refills:*0*
15. levofloxacin 250 mg Tablet Sig: One (1) Tablet PO once a 
day: Last day ___.
Disp:*7 Tablet(s)* Refills:*0*
16. Symbicort 80-4.5 mcg/actuation HFA Aerosol Inhaler Sig: Two 
(2) puffs Inhalation twice a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Urinary tract infecion
Community acquired pneumonia

Secondary diagnosis:
Hypertension
Atrial fibrilation s/p MAZE procedure
Obstructive uropathy
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking part in your care. You were admitted to 
the hospital because you had sudden onset weakness and chills 
and we found that you had a urinary tract infection. You also 
had shortness of breath which may have been from a pneumonia.  
You were treated with antibiotics and have had much improvement. 
You were discharged home to complete a course of antibiotics and 
will follow up with your primary care physician (we have made 
appointments for you - please see below).

You also were found to have a large amount of stool on your CT 
scan so we recommend that you take the stool softeners to ensure 
you have a bowel movement once a day.

You also were found to have an elevated INR from your coumadin 
so we held this while you were here.  Today we restarted it 
because your INR was too low. Please have your doctors ___ 
your ___ at your follow up visit tomorrow.

Please make the following changes to your medications:
START** Levofloxacin antibiotics 250 mg once a day for 7 more 
days (to end ___
START** Senna 1 tablet twice a day as needed for constipation
START** Colace 1 tablet twice a day as needed for constipation

Please keep all ___ appointments (see below)
 
Followup Instructions:
___